US04956372
6-Amino-1,2,3,4-tetrahydroquinoline-8-carboxylic acid
A solution of 6-nitro-1,2,3,4-tetrahydroquinoline-8-carboxylic acid (4.5 g) in DMF (200 ml) was hydrogenated in the presence of 10% palladium on charcoal (1 g) for 5 hours. After removal of the catalyst by filtration, solvent was distilled away to give the title compound (3.72 g, 96.8%). This compound was recrystallized from DMF-ethanol to give brown crystals, mp 207-208° C.

reactant | 6-nitro-1,2,3,4-tetrahydroquinoline-8-carboxylic acid | 4.5 g | [N+](=O)([O-])C=1C=C2CCCNC2=C(C1)C(=O)O | C10H10N2O4
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
catalyst | palladium on charcoal | 1 g | [Pd] | Pd
product | 6-Amino-1,2,3,4-tetrahydroquinoline-8-carboxylic acid | 3.72 g, 96.8% | NC=1C=C2CCCNC2=C(C1)C(=O)O | C10H12N2O2
